### PR TITLE
feat(SuperperfectNumbers): add (m,k)-perfect numbers

### PR DESCRIPTION
**Pull request by Brian-Nugent**
This is issue #2251

### CODE REVIEW

File: FormalConjectures/Wikipedia/Superperfectnumbers.lean [hunk 1]
```diff
@@ -0,0 +1,48 @@
...
+
+/--
+The sum of divisors function σ(n) = `∑ d ∈ divisors n, d`
+-/
+def σ (n : ℕ) : ℕ := ArithmeticFunction.sigma 1 n
+
+/--
+An integer `n : ℕ` is `(m,k)-perfect` if `σᵐ(n) = kn` where `σᵐ` is the mᵗʰ iterate of `σ`.
+-/
+def Perfect (n m k : ℕ) : Prop := Nat.iterate σ m n = k * n
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/Superperfectnumbers.lean]: How about using `Nat.PerfectFor` (to be used as `n.PerfectFor m k` if you do `open Superperfect`) - this would make it a little easier to distinguish from `Nat.Perfect`.

File: FormalConjectures/Wikipedia/Superperfectnumbers.lean [hunk 2]
```diff
@@ -0,0 +1,48 @@
...
+ - [Wikipedia](https://en.wikipedia.org/wiki/Superperfect_number#Generalizations)
+ - [Wikipedia](https://en.wikipedia.org/wiki/List_of_unsolved_problems_in_mathematics#General)
+-/
+
+namespace Superperfect
+
+/--
+The sum of divisors function σ(n) = `∑ d ∈ divisors n, d`
+-/
+def σ (n : ℕ) : ℕ := ArithmeticFunction.sigma 1 n
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/Superperfectnumbers.lean]: The notation `σ` already exists in Mathlib, so I'd suggest inlining this definition to avoid causing confusion. 
```suggestion
```

File: FormalConjectures/Wikipedia/Superperfectnumbers.lean [hunk 3]
```diff
@@ -0,0 +1,48 @@
...
+/--
+An integer `n : ℕ` is `(m,k)-perfect` if `σᵐ(n) = kn` where `σᵐ` is the mᵗʰ iterate of `σ`.
+-/
+def Perfect (n m k : ℕ) : Prop := Nat.iterate σ m n = k * n
+
+/-- An integer `n : ℤ` can be written as a sum of three cubes (of integers) if and only if
+`n` is not `4` or `5` mod `9`. -/
+@[category research open, AMS 11]
+theorem twoFivePerfect : ¬∃ (n : ℕ), Perfect n 2 5 := by
+  sorry
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/Superperfectnumbers.lean]: The docstring doesn't seem to match the statement:)

**Comment by Brian-Nugent** [comment]
I changed the name of `σ` to `sumOfDivisors` and I changed the name of Perfect to PerfectFor

File: FormalConjectures/Wikipedia/Superperfectnumbers.lean [hunk 4]
```diff
@@ -0,0 +1,47 @@
...
+def sumOfDivisors (n : ℕ) : ℕ := ArithmeticFunction.sigma 1 n
+
+/--
+An integer `n : ℕ` is `(m,k)-perfect` if `σᵐ(n) = kn` where `σᵐ` is the mᵗʰ iterate of `σ`.
+-/
+def PerfectFor (n m k : ℕ) : Prop := Nat.iterate sumOfDivisors m n = k * n
+
+/-- There does not exist a (2,5)-perfect number -/
+@[category research open, AMS 11]
+theorem twoFivePerfect : ¬∃ (n : ℕ), PerfectFor n 2 5 := by
```
Comment (mo271) [inline FormalConjectures/Wikipedia/Superperfectnumbers.lean]:
```suggestion
open ArithmeticFunction

namespace Superperfect

/--
An integer $n$ is $(m,k)$-perfect if $\sigma^m(n) = kn$ where $σ^m$ is the $m$-th iterate of $σ$.
-/
def PerfectFor (n m k : ℕ) : Prop := Nat.iterate (fun x => σ 1 x) m n = k * n

/-- There does not exist a $(2,5)$-perfect number -/
@[category research open, AMS 11]
theorem twoFivePerfect : ¬ ∃ n, PerfectFor n 2 5 := by
```

I don't think we need to redefine $\sigma$ here, let's just `open ArithmeticFunction` and use the $\sigma$ from there. Also latex markdown for docstrings...

Comment (Brian-Nugent) [reply FormalConjectures/Wikipedia/Superperfectnumbers.lean]: Thanks! Should I use \sigma or σ in the docstring? It looks like you used both.

Comment (mo271) [reply FormalConjectures/Wikipedia/Superperfectnumbers.lean]: \sigma

File: FormalConjectures/Wikipedia/Superperfectnumbers.lean [hunk 5]
```diff
@@ -0,0 +1,44 @@
...
+ - [Wikipedia](https://en.wikipedia.org/wiki/Superperfect_number#Generalizations)
+ - [Wikipedia](https://en.wikipedia.org/wiki/List_of_unsolved_problems_in_mathematics#General)
+-/
+
+open ArithmeticFunction
+
+namespace Superperfect
+
+/--
+An integer $n$ is $(m,k)$-perfect if $\sigma^m(n) = kn$ where $σ^m$ is the $m$-th iterate of $σ$.
```
Comment (mo271) [inline FormalConjectures/Wikipedia/Superperfectnumbers.lean]:
```suggestion
An integer $n$ is $(m,k)$-perfect if $\sigma^m(n) = kn$ where $\sigma^m$ is the $m$-th iterate of $σ$.
```

File: FormalConjectures/Wikipedia/Superperfectnumbers.lean [hunk 6]
```diff
@@ -0,0 +1,44 @@
...
+
+An integer `n : ℤ` is `(m,k)-perfect` if `σᵐ(n) = kn` where `σᵐ` is the mᵗʰ iterate of the
+sum of divisors function.
+
+*References:*
+ - [Wikipedia](https://en.wikipedia.org/wiki/Superperfect_number#Generalizations)
+ - [Wikipedia](https://en.wikipedia.org/wiki/List_of_unsolved_problems_in_mathematics#General)
+-/
+
+open ArithmeticFunction
```
Comment (mo271) [inline FormalConjectures/Wikipedia/Superperfectnumbers.lean]:
```suggestion
open ArithmeticFunction.sigma
```
